US04188397
2,2'-Thiobis[4,5-bis(4-methylthiophenyl)-1H-imidazole]
A mixture of 4,5-bis(4-methylthiophenyl)-1H-imidazole-2-thione (5.2 g, 0.015 mol), sodium ethoxide (1.0 g, 0.015 mol) and iodine (1.9 g, 0.0075 mol) in ethanol (70 ml) was stirred at ambient temperature for three hours. The resulting solid was collected, washed with ethanol and then ether. Recrystallization from N,N-dimethylformamide give the title compound, m.p. 297°-298°.

reactant | 4,5-bis(4-methylthiophenyl)-1H-imidazole-2-thione | 0.015 mol, 5.2 g | CSC1=CC=C(C=C1)C=1NC(NC1C1=CC=C(C=C1)SC)=S | C17H16N2S3
reactant | sodium ethoxide | 0.015 mol, 1.0 g | [O-]CC.[Na+]
reactant | iodine | 0.0075 mol, 1.9 g | II | I2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2,2'-Thiobis[4,5-bis(4-methylthiophenyl)-1H-imidazole] | S(C=1NC(=C(N1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)SC)C=1NC(=C(N1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)SC | C34H30N4S5
